* Z:\mnt\spice-netlists\LT3798_LT8309_EnergyStarNoPFC_.asc
C1 N012 0 4.7µ
C2 N026 N028 .022µ
M§Q1 N017 N022 N024 N024 STP8NM60
R1 N024 0 .1
L1 N001 N017 1m
L2 0 N008 92.8µ
L3 N018 N010 3.9µ
C3 N007 N011 22p
C4 N006 0 1µ
R3 N012 N013 75K
D1 N007 N006 1N4148
R5 N014 0 5.49K
R6 N008 N014 100K
D5 +IN N001 1N4007
D6 0 -IN 1N4007
D7 0 +IN 1N4007
D8 -IN N001 1N4007
V1 +IN -IN SINE(0 120 600)
XU1 N016 N016 N016 N016 N027 N029 N026 N028 N014 N011 N006 N009 N012 N022 N024 N013 0 LT3798
C7 N030 0 .018µ
R8 N008 N007 100
R9 N009 0 301K
C8 N014 0 22p
R11 N006 N009 2.4Meg
Rload OUT 0 2.2
C6 N001 0 22µ
R10 N029 N030 9.1K
C9 N010 0 47µ
XU2 N025 0 N021 N020 N023 LT8309
M§Q2 N018 N025 0 0 BUK9219-55A
C11 N020 0 1µ
C12 N021 0 4.7µ
C5 N010 0 47µ
C10 N010 0 47µ
C13 OUT 0 47µ
R2 N023 N018 2K
D3 N019 N020 1N4148
R7 N019 N018 100
R12 N015 N017 1K
C14 N001 N015 56p
R13 N016 N027 10K
R14 N027 0 24.9K
R15 N001 N002 10K
M1 N002 N003 N004 N004 STN3N45K3
Q3 N003 N005 0 0 2N2222
R4 N016 N005 20K
R17 N001 N003 4Meg
D2 N004 N006 1N4148
D4 N004 N003 BZX84C10L
L4 N010 OUT 2.2µ
R16 OUT 0 220
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1
.tran 15m
.model 1N4007 D(Is=90p Rs=40m
+  Cjo=30p N=1.4 TT=5u)
* Note:\n  Some values were changed to speed up simulation and substitution due to un-available models.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
* LT3798 - Isolated No Opto-Coupler Flyback Controller with Active PFC\nLT8309 - Secondary-Side Synchronous Rectifier Driver\n5V, 2A Energy Star Compliant Isolated Converter\nInput: 85VAC to 150VAC     Output: 5V @ 2.2A
.lib LT3798.sub
.lib LT8309.sub
.backanno
.end
